US04357471
A solution of 2-azaspiro-[5.5]-undeca-1,7-diene (14.0 g.; 0.10 mole) is dissolved in dry benzene (150 ml.) and methyl iodide (21.3 g.; 0.15 mole) is added. The mixture becomes warm and a solid separates. The precipitate is filtered, washed with ether and air-dired to afford 27.0 g. (93% yield) of 2-methyl-2-azoniaspiro-[5.5]undeca-1,7-diene iodide, m.p. 193°-194° C.

reactant | 2-azaspiro-[5.5]-undeca-1,7-diene | 0.10 mole, 14.0 g | C1=NCCCC12C=CCCC2 | C10H15N
reactant | methyl iodide | 0.15 mole, 21.3 g | CI | CH3I
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 2-methyl-2-azoniaspiro-[5.5]undeca-1,7-diene iodide | 93% yield | [I-].C[N+]1=CC2(CCC1)C=CCCC2 | InChI=1S/C11H18N.HI/c1-12-9-5-8-11(10-12)6-3-2-4-7-11;/h3,6,10H,2,4-5,7-9H2,1H3;1H/q+1;/p-1
